US07173045B2
A mixture of the diastereoisomers of (4-aminomethyl-1-phenylcyclohexyl)dimethylamine (465 mg, 2 mmol.) and 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride (830 mg, 3 mmol.) was added to a solution of 4-(5-fluoro-1H-indol-3-yl)butanoic acid (443 mg, 2 mmol.) in abs. methanol (10 ml), and stirring was carried out for 24 h at RT. For working up, the mixture was concentrated, water (5 ml) was added to the solid residue, and the pH was adjusted to 11 with 2M NaOH. Extraction was carried out with EE (5×10 ml), and the combined extracts were washed with 1M NaOH (2×3 ml), dried, filtered and concentrated. The residue was a diastereoisomeric mixture of the bases of the target product, which was separated by flash chromatography on silica gel (50 g) and purified (eluant: 700 ml of ethanol/EE 1:1). 260 mg (0.59 mmol.) of the non-polar diastereoisomer of 4-(5-fluoro-1H-indol-3-yl)butanoic acid (4-dimethylamino-4-phenylcyclohexylmethyl)amide were obtained in the form of a light-yellow viscous oil; the oil was dissolved in 2-butanone (7 ml), and chlorotrimethylsilane (113 μl, 0.89 mmol.) was added thereto. There immediately formed a white precipitate, which was deposited in a tacky manner on the wall of the flask. The solvent was reduced to about 3 ml in vacuo and, after addition of ether (3 ml), vigorous stirring was carried out at RT for 1 h. The solid that formed was filtered off with suction, washed with ether (3×1.5 ml) and dried in vacuo. The hydrochloride of the non-polar diastereoisomer of 4-(5-fluoro-1H-indol-3-yl)butanoic acid (4-dimethylamino-4-phenylcyclohexylmethyl)amide was thus obtained in the form of a hygroscopic solid in a yield of 272 mg.

reactant | (4-aminomethyl-1-phenylcyclohexyl)dimethylamine | 2 mmol, 465 mg | NCC1CCC(CC1)(C1=CC=CC=C1)N(C)C | C15H24N2
reactant | 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride | 3 mmol, 830 mg | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | 4-(5-fluoro-1H-indol-3-yl)butanoic acid | 2 mmol, 443 mg | FC=1C=C2C(=CNC2=CC1)CCCC(=O)O | C12H12FNO2
solvent | methanol | 10 ml | CO | CH4O
product | 4-(5-fluoro-1H-indol-3-yl)butanoic acid (4-dimethylamino-4-phenylcyclohexylmethyl)amide | CN(C1(CCC(CC1)CNC(CCCC1=CNC2=CC=C(C=C12)F)=O)C1=CC=CC=C1)C | C27H34FN3O
